US08106190B2
Under ice-cooling, 1-chloroethyl chloroformate was added to a 1,2-dichloroethane solution of 2-[(1-benzylpiperidin-4-yl)amino]-4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide. This was stirred for 1 hour under heat reflux and then concentrated under a reduced pressure. After dissolving in methanol, this was stirred for 2 hours under heat reflux. After concentration of the reaction liquid under a reduced pressure, the residue was purified by silica gel column chromatography to obtain 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-(piperidin-4-ylamino)benzamide.

reactant | 1-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 2-[(1-benzylpiperidin-4-yl)amino]-4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=C1)Cl | C29H31ClN4O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-chloro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-(piperidin-4-ylamino)benzamide | ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NC1CCNCC1 | C22H25ClN4O2
